US04268457
P-phenoxybenzotrichloride (288 parts) was added to 182 parts of p-phenoxybenzoic acid, with mixing. The mixture was allowed to stand at ambient temperature for about 16 hours, then heated, over a period of about 4 hours, to a temperature of about 140° C., at which point HCl evolution was detected. The mixture was maintained at a temperature of between about 112° and 140° C. for an additional 21 hours, then cooled and analyzed by gas chromatographic techniques. Analysis indicated a 73% yield of p-phenoxybenzoylchloride based on the starting materials.

reactant | P-phenoxybenzotrichloride | C1=CC=C(C=C1)OC2=CC=C(C=C2)C(Cl)(Cl)Cl | C13H9Cl3O
reactant | p-phenoxybenzoic acid | O(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | HCl | Cl | ClH
product | p-phenoxybenzoylchloride | 73% yield | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
